US07776875B2
Preparation of Intermediate E/Z-6-chloro-3-(5-chloro-2-cyanomethoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-[4-Chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-acetonitrile (8.10 g, 23.46 mmol) in dichloromethane (100 mL) at room temperature was added di-tert-butyl-dicarbonate (6.15 g, 28.16 mmol), followed by the addition of 4-dimethylaminopyridine (0.86 g, 7.037 mmol). After the reaction mixture was stirred at room temperature for 2 h, the solution was washed with HCl aq. (0.5 M) and brine twice, dried over anhydrous Na2SO4 and concentrated to give the title compound as a red solid (8.70 g).

reactant | Z-[4-Chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-acetonitrile | 23.46 mmol, 8.10 g | ClC1=CC(=C(OCC#N)C=C1)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C17H10Cl2N2O2
reactant | di-tert-butyl-dicarbonate | 28.16 mmol, 6.15 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 7.037 mmol, 0.86 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-(5-chloro-2-cyanomethoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 8.70 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCC#N)=O | C22H18Cl2N2O4
